US04053455
Hexamethylenetetramine molybdate having a 2/1 molybdenum/hexamethylenetetramine molar ratio was prepared as follows. 10 grams of hexamethylenetetramine was dissolved in 100 ml water heated near reflux temperature. 24.01 grams of commercial, so-called "molybdic acid" (actually at least one ammonium molybdate) was dissolved in 169 ml water heated to reflux temperature. The first solution was added to the second solution.

reactant | hexamethylenetetramine | 10 grams | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | molybdic acid | O[Mo](=O)(=O)O
reactant | ammonium molybdate | [NH4+].[NH4+].[O-][Mo](=O)(=O)[O-]
solvent | water | 100 ml | O | H2O
solvent | water | 169 ml | O | H2O
product | molybdenum hexamethylenetetramine | [Mo].C1N2CN3CN1CN(C2)C3 | InChI=1S/C6H12N4.Mo/c1-7-2-9-4-8(1)5-10(3-7)6-9;/h1-6H2;
